US08609692B2
7-chloro-2-(fluoromethyl)-2-methylchroman-4-one
1-(4-Chloro-2-hydroxyphenyl)ethanone (10.2 g, 59.8 mmol), MeOH (100 mL), fluoroacetone (5.00 g, 65.8 mmol), and pyrrolidine (5.44 ml, 65.8 mmol) were stirred at ambient temperature. After 3 days, LCMS showed complete reaction. The reaction mixture was diluted with MTBE (250 mL), washed with water (100 mL), 2N HCl (2×50 mL), brine (50 mL), 2N NaOH (2×50 mL), and brine (2×50 mL). The organic portion was dried (Na2SO4), filtered, and concentrated to provide the title compound (12.9 g, 56.4 mmol, 94% yield) as a brown oil. MS (DCI/NH3) m/z 246 (M+NH4)+.

reactant | 1-(4-Chloro-2-hydroxyphenyl)ethanone | 59.8 mmol, 10.2 g | ClC1=CC(=C(C=C1)C(C)=O)O | C8H7ClO2
reactant | MeOH | 100 mL | CO | CH4O
reactant | fluoroacetone | 65.8 mmol, 5.00 g | FCC(C)=O | C3H5FO
reactant | pyrrolidine | 65.8 mmol, 5.44 ml | N1CCCC1 | C4H9N
solvent | MTBE | 250 mL | CC(C)(C)OC | C5H12O
product | 7-chloro-2-(fluoromethyl)-2-methylchroman-4-one | 56.4 mmol, 12.9 g, 94% yield | ClC1=CC=C2C(CC(OC2=C1)(C)CF)=O | C11H10ClFO2
